US04110449
A. 2-[[[2-(4-Phenyl-1-(2H)-pyridinyl)ethyl]amino]-carbonyl]benzenesulfonic acid
8.80 g (43.6 mM) 3,6-Dihydro-4-phenyl-1(2H)pyridineethanamine, and 8.04 g (43.6 mM) o-sulfobenzoic anhydride are refluxed in 400 ml toluene for 1 hour, and stirred at room temperature overnight. The resulting precipitate is filtered out, washed with toluene, and dissolved in 1% NaOH. The solution is washed with chloroform. The product is precipitated from the aqueous layer by adding concentrated HCl slowly (if the basic solution is acidified all at once, the HCl salt precipitates): 10.12 g, m.p. 272°-274° (m.p. depends upon the rate of heating).

reactant | 3,6-Dihydro-4-phenyl-1(2H)pyridineethanamine | 43.6 mM, 8.80 g | C1(=CC=CC=C1)C=1CCN(CC1)CCN | C13H18N2
reactant | o-sulfobenzoic anhydride | 43.6 mM, 8.04 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[[[2-(4-Phenyl-1-(2H)-pyridinyl)ethyl]amino]-carbonyl]benzenesulfonic acid | C1(=CC=CC=C1)C1=CCN(C=C1)CCNC(=O)C1=C(C=CC=C1)S(=O)(=O)O | C20H20N2O4S
